US05624942
(1) Synthesis of an intermediate, 2-chloro-4-methyl-6-(3-thienylmethyloxy)pyridine
To a solution containing 3-thiophenemethanol (0.78 g, 0.0062×1.1 mol) and sodium hydride (0.26 g, (ca.60% in mineral oil), 0.0062×1.05 mol) in tetrahydrofuran, 2,6-dichloro-4-methylpyridine (1.0 g, 0.0062 mol) was added, and the resultant solution was refluxed for about 1 hour.

reactant | 3-thiophenemethanol | 1.1 mol, 0.78 g | S1C=C(C=C1)CO | C5H6OS
reactant | sodium hydride | 1.05 mol, 0.26 g | [H-].[Na+]
reactant | 2,6-dichloro-4-methylpyridine | 0.0062 mol, 1.0 g | ClC1=NC(=CC(=C1)C)Cl | C6H5Cl2N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-chloro-4-methyl-6-(3-thienylmethyloxy)pyridine | ClC1=NC(=CC(=C1)C)OCC1=CSC=C1 | C11H10ClNOS
